US04079082
4,4'-Diamino-Quaterphenyl
The NMR spectrum in dimethyl sulfoxide included an aromatic singlet 7.52 to low field of an A2B2 quartet 7.37, 7.22, 6.59 and 6.44 with integrated intensities in the ratio 1:1. N,N,N', N'-Tetraethyl-4,4'-diamino-quarterphenyl may be prepared from the diamino derivative of Example 5 by following the procedure outlined in Example 6.

reactant | N,N,N', N'-Tetraethyl-4,4'-diamino-quarterphenyl | C(C)N(C1=CC=C(C=C1)C=1C(=CC(=CC1)N(CC)CC)C=1C(=CC=CC1)C1=CC=CC=C1)CC | C32H36N2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 4,4'-Diamino-Quaterphenyl | NC1=CC=C(C=C1)C=1C(=CC(=CC1)N)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H20N2
